US09334267B2
7-Methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate
Combine 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-ol (25 g, 121 mmol), DCM (1100 mL) and pyridine (98 mL, 1206 mmol) and cool the mixture with an ice bath until the internal temperature <3° C. Add trifluoromethanesulfonic anhydride (24.5 mL, 145 mmol) slowly via syringe at such a rate that the internal temperature is maintained below 5° C. Stir the reaction mixture at 0° C. for 2 h. Wash with water (3×300 mL) and brine (300 mL), dry over MgSO4, and filter. Concentrate the filtrate under reduced pressure (water bath temp ˜35° C.) and dry under high vacuum for 2-3 h at RT. Dissolve the residue in DCM and purify by silica gel chromatography (EtOAc/hexanes). Concentrate fractions to afford a semi-pure solid. Triturate the solid with 20% EtOAc/hexanes (100 mL), collect by filtration, rinse with 20% EtOAc/hexanes (2×10 mL) and dry under vacuum at RT to afford the title compound as a pale pink solid (28.6 g, 70% yield). MS (m/z): 340.0 (M+1).

reactant | 7-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-ol | 121 mmol, 25 g | CC=1C(=CC2=C(N=C(N=C2)SC)N1)O | C9H9N3OS
reactant | pyridine | 1206 mmol, 98 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 145 mmol, 24.5 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 1100 mL | C(Cl)Cl | CH2Cl2
product | 7-Methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-6-yl trifluoromethanesulfonate | 28.6 g, 70% yield | FC(S(=O)(=O)OC1=CC2=C(N=C(N=C2)SC)N=C1C)(F)F | C10H8F3N3O3S2
